US07115596B2
7-(2-chloroethyl)-1,2,3,4-tetrahydro-1,8-naphthyridine
7-(2-hydroxyethyl)-1,2,3,4-tetrahydro-1,8-naphthyridine (5.00 g) was added to thionyl chloride (25 mL) and refluxed for 12 hour in benzene (100 mL). The resulting solution was concentrated and the red oil was dissolved in CH2Cl2 and washed with NaHCO3 (satd). The CH2Cl2 layer was extracted, dried with Na2SO4, and concentrated in vacuo to afford 4.99 g (90%) of a tan solid. 1H NMR (DMSO-d6) δ 7.06 (d, 1H), 6.35 (br s, 1H), 6.33 (d, 1H), 3.86 (t, 2H), 3.25 (m, 2H), 2.87 (t, 2H), 2.62 (t, 2H), 1.75 (pentet, 2H).

reactant | 7-(2-hydroxyethyl)-1,2,3,4-tetrahydro-1,8-naphthyridine | 5.00 g | OCCC1=CC=C2CCCNC2=N1 | C10H14N2O
reactant | thionyl chloride | 25 mL | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 7-(2-chloroethyl)-1,2,3,4-tetrahydro-1,8-naphthyridine | 4.99 g, 90% | ClCCC1=CC=C2CCCNC2=N1 | C10H13ClN2
